US06340759B1
(28-2) 3-Bromo-1-(4-ethylpiperazin-1-yl)isoquinoline
1,3-Dibromoisoquinoline (2.70 g), N-ethylpiperazine (1.16 g) and potassium carbonate (3.50 g) were reacted in DMF (30 ml) at 80° C. for 5 hr. The reaction solution was evaporated, and then partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried and evaporated. The resulting residue was purified by NH silica gel column chromatography (ethyl acetate/n-hexane system), to give the title compound (2.21 g) as a pale yellow oil.

reactant | 1,3-Dibromoisoquinoline | 2.70 g | BrC1=NC(=CC2=CC=CC=C12)Br | C9H5Br2N
reactant | N-ethylpiperazine | 1.16 g | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 3.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-Bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 2.21 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
